US08426449B2
Step 2: (3-{2-[(Acetyl-benzyl-amino)-methyl]-4-bromo-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: {3-[2-(benzylamino-methyl)-4-bromo-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and acetyl chloride.

reactant | {3-[2-(benzylamino-methyl)-4-bromo-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CNCC1=CC=CC=C1)=O | C25H26BrNO4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (3-{2-[(Acetyl-benzyl-amino)-methyl]-4-bromo-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN(CC1=CC=CC=C1)C(C)=O)=O | C27H28BrNO5
